US05171354
A solution of 1.2 g of O-methylhydroxylamine hydrochloride in 2.4 ml of distilled water is slowly treated with concentrated sulfuric acid with stirring in such a way that the reaction temperature does not rise above 60° C. 4.0 g of 3-[β-(diethylamino)-2-chloro-4-fluorostyryl]pyridine are then added rapidly in such a way that the internal temperature is exactly 70° C. at the end of the addition. The mixture is then stirred at 70° C. for 5 hours, cooled to room temperature and poured into ice-water. The aqueous phase is adjusted to pH=8.0 with sodium hydroxide solution and the mixture is extracted with diethyl ether. The organic phase is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. 2'-Chloro-4'-fluoro-2-(3-pyridyl)acetophenone O-methyloxime is obtained as an E/Z isomer mixture in the form of a brownish oil. Column chromatographic separation on silica gel using n-hexane/ethyl acetate (4:1) first gives the E isomer [1H-NMR (CDCl3, 200 MHz): 4.03 ppm (s, CH3O--N=)] and then the Z isomer [1H-NMR (CDCl3, 200 MHz): 3.84 ppm (s, CH3O--N=)].

reactant | O-methylhydroxylamine hydrochloride | 1.2 g | Cl.CON
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3-[β-(diethylamino)-2-chloro-4-fluorostyryl]pyridine | 4.0 g | C(C)N(C(=CC=1C=NC=CC1)C1=C(C=C(C=C1)F)Cl)CC | C17H18ClFN2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 2.4 ml | O | H2O
product | 2'-Chloro-4'-fluoro-2-(3-pyridyl)acetophenone O-methyloxime | CON=C(CC=1C=NC=CC1)C1=C(C=C(C=C1)F)Cl | C14H12ClFN2O
